US05006643
Preparation of α-(4-isothiocyanatophenyl)-1,4,7,10-tetraazacyclododecane-1,4,7,10-tetraacetic acid, samarium-153 complex
To a solution of α-(4-aminophenyl)-1,4,7,10-tetraazacyclododecane-1,4,7,10-tetraacetic acid, samarium-153 complex prepared from 220 μl of 153Sm solution in 0.1N HCl were added 2 μl of HEPES buffer (0.5M, pH 8.9), 2 μl of thiophosgen and 200 μl of chloroform. It was vortexed vigorously 2 or 3 times for a few seconds each time. The chloroform layer was discarded and the aqueous layer which contained mainly the desired product was saved and further purified. The yield of α-(4-isothiocyanatophenyl)-1,4,7,10-tetraazacyclododecane-1,4,7,10-tetraacetic acid, samarium-153 complex, as analyzed by HPLC on GF-250 column based on the 153Sm activity using the HPLC System I was usually over 90%. To purify, the aqueous layer was passed through a Sep-Pak™ C-18 cartridge and eluted with 90 percent acetonitrile in water. The first 300 μl of effluent was discarded, and the desired product came off in the next 1200 μl, with 86-93% recovery. The bulk of the solvent was then evaporated off in a Speed Vac™ concentrator over a period of about 2 hours.

reactant | α-(4-aminophenyl)-1,4,7,10-tetraazacyclododecane-1,4,7,10-tetraacetic acid | NC1=CC=C(C=C1)C(C(=O)O)N1CCN(CCN(CCN(CC1)CC(=O)O)CC(=O)O)CC(=O)O | C22H33N5O8
reactant | HEPES | 0.5M, 2 μl, pH 8.9 | C1CN(CCN1CCO)CCS(=O)(=O)O | C8H18N2O4S
reactant | thiophosgen | 2 μl | C(=S)(Cl)Cl | CCl2S
reactant | chloroform | 200 μl | C(Cl)(Cl)Cl | CHCl3
solvent | HCl | 0.1N | Cl | ClH
product | α-(4-isothiocyanatophenyl)-1,4,7,10-tetraazacyclododecane-1,4,7,10-tetraacetic acid | N(=C=S)C1=CC=C(C=C1)C(C(=O)O)N1CCN(CCN(CCN(CC1)CC(=O)O)CC(=O)O)CC(=O)O | C23H31N5O8S
